US05891657
N-(3-methylbenzyl)-diglycolic acid, monoamide was prepared as follows: 2.4 g (0.02 moles) of 3-methylbenzylamine (Aldrich Chemical) was added to 3.0 g (0.026 mole) of diglycolic anhydride (Aldrich) dissolved in 15 mL dioxane. The solution was warmed, with stirring, at 70°-80° C. for 60 min. After cooling slightly, water was added to near the cloud point. After standing 60 minutes at room temperature, the crystals were filtered by suction, washed with water, and air dried. Recrystallized from water-ethanol.

reactant | 3-methylbenzylamine | 0.02 moles, 2.4 g | CC=1C=C(CN)C=CC1 | C8H11N
reactant | diglycolic anhydride | 0.026 mole, 3.0 g | C1(COCC(=O)O1)=O | C4H4O4
reactant | water | O | H2O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | N-(3-methylbenzyl)-diglycolic acid, monoamide | CC=1C=C(CNC(COCC(=O)O)=O)C=CC1 | C12H15NO4
